US04971620
(a) Preparation of 1-acetoxy-3-[N-(2,5-dimethylphenylsulfonyl)-N-methylamino]-2-phenyl-2-propanol
A mixture of 5.30 g of 1,2-epoxy-2-phenyl-3-[N-(2,5-dimethylphenylsulfonyl)-N-methylamino]propane which had been prepared in accordance with Reference Examples 4 to 8, 3.30 g of anhydrous sodium acetate and 50 ml of acetic acid was stirred at 100° to 110° C. for 2 days. After evaporation, the residue was dissolved in 150 ml of benzene, washed subsequently with water, a saturated aqueous sodium bicarbonate and saturated brine, and then dried over anhydrous magnesium sulfate. After evaporation, the residue was purified by silica gel column chromatography (developing solvent: n-hexane-ethyl acetate (5:1)) to obtain 3.60 g of the titled compound.

reactant | 1,2-epoxy-2-phenyl-3-[N-(2,5-dimethylphenylsulfonyl)-N-methylamino]propane | 5.30 g | O1CC1(CN(C)S(=O)(=O)C1=C(C=CC(=C1)C)C)C1=CC=CC=C1 | C18H21NO3S
reactant | sodium acetate | 3.30 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 1-acetoxy-3-[N-(2,5-dimethylphenylsulfonyl)-N-methylamino]-2-phenyl-2-propanol | 3.60 g | C(C)(=O)OCC(CN(C)S(=O)(=O)C1=C(C=CC(=C1)C)C)(O)C1=CC=CC=C1 | C20H25NO5S
